US06822106B2
Preparation of Bis(2-methyl-4-thienyl)methane
31.3 g of 2-methyl-4-bromo-thiophene (0.177 mol) was dissolved in 150 ml ether and treated dropwise with 113 ml 1.6M BuLi (0.1 mol) at −70° C. The resulting solution kept under stirring at −60 to −70° C. for 30 min and then was treated with 22.3 g 2-methyl-4-thiophene-aldehyd (0.177 mol) in 100 ml ether. The mixture was allowed to warm to r.t., then neutralized by 10% aq. NH4Cl and washed with water. The organic phase was collected and evaporated off. The suspension of 10 g LiAlH4 (0.266 mol) in 100 ml ether was treated dropwise with the solution of 35.5 g AlCl3 (0.266 mol) in 100 ml ether. The resulting mixture was treated with the solution of the compound obtained in the previous reaction in 100 ml ether. The mixture refluxed for additional 1 h, cooled up to r.t. and treated with 100 ml ethyl acetic ester. Then the mixture was treated with 300 ml H2O and 300 ml ether. Organic phase was collected, washed with water, dried over MgSO4 and evaporated off. The residue was distilled at 90-110/0.5 mmHg. Yield 23.2 g (63%). The title compound was analyzed by 1H-NMR spectroscopy.

reactant | 2-methyl-4-bromo-thiophene | 0.177 mol, 31.3 g | CC=1SC=C(C1)Br | C5H5BrS
reactant | BuLi | 0.1 mol, 1.6M, 113 ml | [Li]CCCC
reactant | 2-methyl-4-thiophene-aldehyd | 0.177 mol, 22.3 g | CC=1SC=C(C1)C=O | C6H6OS
reactant | NH4Cl | [NH4+].[Cl-]
reactant | LiAlH4 | 0.266 mol, 10 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AlCl3 | 0.266 mol, 35.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | H2O | 300 ml | O | H2O
product | Bis(2-methyl-4-thienyl)methane | CC=1SC=C(C1)CC=1C=C(SC1)C | C11H12S2
